US05654307
A mixture of 7-amino-4-methylthiopyrido[4,3-d]pyrimidine (208 mg, 1.08 mmol) and 3-chloroaniline (1.21 g, 9.48 mmol) is stirred at 150° C. for 20 min. The resulting product is chromatographed over alumina (5-10% MeOH/CH2Cl2) to give 7-amino-4-(3-chloroanilino)pyrido[4,3-d]pyrimidine (177 mg, 60%) as a white solid. 1H NMR (DMSO) δ 9.92 (1H,brs), 9.35 (1H, s), 8.45 (1H, s), 8.08 (1H, brs), 7.79 (1H, brd, J=8.0 Hz), 7.40 (1H, t, J=8.1 Hz), 7.16 (1H, dd, J=7.9, 1.3 Hz), 6.68 (2H, brs), 6.46 (1H, s).

reactant | 7-amino-4-methylthiopyrido[4,3-d]pyrimidine | 1.08 mmol, 208 mg | NC1=CC=2N=CN=C(C2C=N1)SC | C8H8N4S
reactant | 3-chloroaniline | 9.48 mmol, 1.21 g | ClC=1C=C(N)C=CC1 | C6H6ClN
product | 7-amino-4-(3-chloroanilino)pyrido[4,3-d]pyrimidine | 177 mg, 60% | NC1=CC=2N=CN=C(C2C=N1)NC1=CC(=CC=C1)Cl | C13H10ClN5
